US07807709B2
Benzyl-carbamic acid (3S*,4S*)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidin-3-ylmethyl ester
The title compound is prepared analogously as described in Example 3 from (3S*,4R*)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester and benzylisocyanate. MS (LC-MS): 528.3 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.52 min.

reactant | (3S*,4R*)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CO | C26H42N2O7
reactant | benzylisocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | Benzyl-carbamic acid (3S*,4S*)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidin-3-ylmethyl ester | C(C)(C)N(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C[C@H]1[C@@H](CNC1)COC(NCC1=CC=CC=C1)=O | C29H41N3O6
